US08871788B2
N-[2-(3-Bromo-phenyl)-ethyl]-4-methyl-benzenesulfonamide
TsCl (11 g, 57.5 mmol, 1.15 eq.) was dissolved in DCM (150 mL) and cooled to 0° C. To this solution was added a solution of 3-bromo-phenethyamine (10 g, 50 mmol) in DCM (50 mL), followed by Et3N (18 mL). The solution was stirred at r.t. overnight when TLC (5% MeOH in DCM) showed that the reaction was complete. LCMS: t=4.158, MS 354/356. 3 g of polymer-supported-amine was added, stirred for 1 h at r.t. The solution was filtered through a Celite pad, rinsed with DCM and the solvent was evaporated to dryness, re-dissolved in DCM (100 mL) and water (20 mL). The two layers were separated, and the aqueous layer was extracted with DCM (20 mL×2). The combined DCM extracts were washed with 1N H3PO4 (2×20 mL) and sodium bicarbonate (20 mL), and brine (15 mL×2), dried (anhydrous potassium carbonate), filtered, and concentrated in vacuo. The crude product was purified on a silica gel column, eluted with DCM (TLC: DCM) to get 17.89 g (100%) of the title compound as a off-white solid, on standing.

reactant | TsCl | 57.5 mmol, 11 g, 1.15 eq. | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 3-bromo-phenethyamine | 50 mmol, 10 g | BrC=1C=C(CCN)C=CC1 | C8H10BrN
reactant | Et3N | 18 mL | CCN(CC)CC | C6H15N
reactant | MeOH | CO | CH4O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(3-Bromo-phenyl)-ethyl]-4-methyl-benzenesulfonamide | 17.89 g, 100% | BrC=1C=C(C=CC1)CCNS(=O)(=O)C1=CC=C(C=C1)C | C15H16BrNO2S
